US07329662B2
5-(3,4-Dichloro-phenyl)-3-(2,6-dimethyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(3,4-dichloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione (143 mg, 0.5 mmol), prepared from commercially available 3,4-dichloro-acetophenone according to general procedure A, and 3-amino-4-(2,6-dimethyl-4-pyridinyl)-pyrazole [prepared from 4-cyanomethyl-2,6-dimethyl-pyridine, CAS No. 130138-46-4, see part synthesis of amino-pyrazole derivatives] (94 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (106 mg, 48%). MS (ISP) 437.1 [(M+H)+]; mp 281° C.

reactant | 1-(3,4-dichloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 143 mg | ClC=1C=C(C=CC1Cl)C(CC(C(F)(F)F)=O)=O | C10H5Cl2F3O2
reactant | 3-amino-4-(2,6-dimethyl-4-pyridinyl)-pyrazole | 0.5 mmol, 94 mg | NC1=NNC=C1C1=CC(=NC(=C1)C)C | C10H12N4
product | 5-(3,4-Dichloro-phenyl)-3-(2,6-dimethyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 106 mg, 48% | ClC=1C=C(C=CC1Cl)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=CC(=NC(=C2)C)C | C20H13Cl2F3N4
